US07211545B2
Under ice-cooling, 0.63 g of 5,7-dichloro-6-(2-chloro-6-fluorophenyl)imidazo[1,2-a]pyrimidine and 0.79 g of 4-methylpiperidine were mixed. The reaction mixture was allowed to stand at room temperature for 10 minutes, and chloroform and water were added thereto. The separated organic layer was with water, dried over sodium sulfate and concentrated. The residue was subjected to silica gel chromatography to give 0.73 g of 5-(4-methylpiperidin-1-yl)-6-(2-chloro-6-fluorophenyl)-7-chloroimidazo[1,2-a]pyrimidine.

reactant | 5,7-dichloro-6-(2-chloro-6-fluorophenyl)imidazo[1,2-a]pyrimidine | 0.63 g | ClC1=C(C(=NC=2N1C=CN2)Cl)C2=C(C=CC=C2F)Cl | C12H5Cl3FN3
reactant | 4-methylpiperidine | 0.79 g | CC1CCNCC1 | C6H13N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 5-(4-methylpiperidin-1-yl)-6-(2-chloro-6-fluorophenyl)-7-chloroimidazo[1,2-a]pyrimidine | 0.73 g | CC1CCN(CC1)C1=C(C(=NC=2N1C=CN2)Cl)C2=C(C=CC=C2F)Cl | C18H17Cl2FN4
